US04436903
11.4 g (20 mmols) of 7β-benzylacetylamino-3-morpholino-3-cephem-4-carboxylic acid benzhydryl ester are dissolved in 50 ml of ethanol, 50 ml of methylene chloride and 50 ml of glacial acetic acid. The solution is cooled to 0° C. and then, with stirring and under nitrogen, 4.08 g (120 mmols) of sodium borohydride are added in 200 mg portions over 1 hour, with vigorous evolution of gas after each addition. When the addition is complete, the reaction mixture is cooled to room temperature and, after addition of a further 50 ml of glacial acetic acid, stirred for 36 hours at room temperature. The clear, almost colourless solution is concentrated in a rotary evaporator and the residue is partitioned between water and methylene chloride. The organic phase is washed again with two 50 ml portions of water and then concentrated in vacuo, affording crude 7β-benzylacetylamino-3-cephem-4-carboxylic acid benzhydryl ester as a foam.

reactant | 7β-benzylacetylamino-3-morpholino-3-cephem-4-carboxylic acid benzhydryl ester | 20 mmols, 11.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CCC2=CC=CC=C2)=O)=O)N2CCOCC2 | C33H33N3O5S
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 120 mmols, 4.08 g | [BH4-].[Na+]
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7β-benzylacetylamino-3-cephem-4-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2NC(CCC2=CC=CC=C2)=O)=O | C29H26N2O4S
